Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
redness and pain around umbilical wound, found to have 
Entercutaneous fistula on admission to ___
 
Major Surgical or Invasive Procedure:
Placement Of PICC line.

Opening of midline wound at bedside.

 
History of Present Illness:
Per Colorectal Surgery Admission Note:

HPI: ___ w COPD s/p laparoscopic resection splenic flexure for
stage II (pT3N0) adenoCA ___ now returns w abdominal pain and
chills x 2 days. Patient underwent procedure ___ w subsequent
discharge to home on ___. Course was notable for treatment of
LLL PNA but was otherwise unremarkable. Was doing well at home
until two days prior to admission when he noted increasing
abdominal pain and chills. Describes pain as initially mild but
then progressed to moderate/severe. Primarily located in R
abdomen and at midline. Given these symptoms was seen at OSH ED
(___ Ctr) on ___. While in ED had elevated WBC
(13k) and CT scan c/f anastomotic leak. Xfer to ___ for 
further
management. 

On surgery eval, patient reports pain as described above.
Tolerating diet though appetite poor. Passing flatus and
approximately 2 loose BMs per day. Denies fever, chest pain,
shortness of breath, cought, nausea, vomiting, blood per rectum,
wound drainage, dysuria or other concerning symptoms. 

 
Past Medical History:
Pneumonia ___ (hosp in ___, hosp x 6 in ___ yr  
GERD/LPR  
Paradoxical Vocal Fold Motion  
Small lung nodules  
Kidney stone, s/p retrieval surgery  
s/p umbilical hernia repair in his mid ______  
Tracheobronchomalacia

 
Social History:
___
Family History:
Mother - ___

 
Physical Exam:
General: mood anxious and upset, pain controlled, ambulating, 
fistula output controlled, ambulating without difficulty
VSS
Neuro: A&OX3
Cardio/Pulm: RRR, no increased work of breathing
ABD: EC fistula at umbilical incision, pink colon visible, 
liquid brown stool from fistula, pouched with ostomy appliance
___: No lower extremity edema
 
Pertinent Results:
___ 05:26AM BLOOD WBC-11.7* RBC-4.09* Hgb-11.8* Hct-37.0* 
MCV-91 MCH-28.9 MCHC-31.9* RDW-13.2 RDWSD-44.0 Plt ___
___ 05:33AM BLOOD WBC-11.9* RBC-4.10* Hgb-12.0* Hct-37.5* 
MCV-92 MCH-29.3 MCHC-32.0 RDW-13.2 RDWSD-44.5 Plt ___
___ 05:14AM BLOOD WBC-11.6* RBC-3.95* Hgb-11.4* Hct-36.2* 
MCV-92 MCH-28.9 MCHC-31.5* RDW-13.3 RDWSD-44.9 Plt ___
___ 06:00AM BLOOD WBC-13.7* RBC-4.08* Hgb-12.0* Hct-36.9* 
MCV-90 MCH-29.4 MCHC-32.5 RDW-13.2 RDWSD-43.8 Plt ___
___ 05:30AM BLOOD WBC-11.5* RBC-3.87* Hgb-11.1* Hct-35.2* 
MCV-91 MCH-28.7 MCHC-31.5* RDW-13.3 RDWSD-43.8 Plt ___
___ 06:55AM BLOOD WBC-10.5* RBC-3.94* Hgb-11.5* Hct-35.6* 
MCV-90 MCH-29.2 MCHC-32.3 RDW-13.2 RDWSD-44.1 Plt ___
___ 04:16AM BLOOD WBC-9.3 RBC-3.81* Hgb-11.2* Hct-34.6* 
MCV-91 MCH-29.4 MCHC-32.4 RDW-13.3 RDWSD-44.6 Plt ___
___ 06:30PM BLOOD WBC-10.0 RBC-3.70* Hgb-10.7* Hct-33.3* 
MCV-90 MCH-28.9 MCHC-32.1 RDW-13.4 RDWSD-44.3 Plt ___
___ 08:50AM BLOOD WBC-14.7* RBC-3.64* Hgb-10.8* Hct-33.3* 
MCV-92 MCH-29.7 MCHC-32.4 RDW-13.6 RDWSD-46.0 Plt ___
___ 05:26AM BLOOD Glucose-90 UreaN-26* Creat-1.1 Na-140 
K-4.6 Cl-105 HCO3-24 AnGap-16
___ 05:33AM BLOOD Glucose-86 UreaN-20 Creat-1.1 Na-137 
K-4.8 Cl-102 HCO3-22 AnGap-18
___ 05:14AM BLOOD Glucose-90 UreaN-19 Creat-1.0 Na-139 
K-4.8 Cl-104 HCO3-25 AnGap-15
___ 06:00AM BLOOD Glucose-102* UreaN-19 Creat-1.0 Na-138 
K-4.3 Cl-101 HCO3-24 AnGap-17
___ 05:30AM BLOOD Glucose-94 UreaN-22* Creat-1.0 Na-138 
K-4.4 Cl-105 HCO3-22 AnGap-15
___ 06:55AM BLOOD Glucose-116* UreaN-13 Creat-0.9 Na-138 
K-4.1 Cl-105 HCO3-22 AnGap-15
___ 04:16AM BLOOD Glucose-110* UreaN-9 Creat-1.0 Na-137 
K-4.2 Cl-103 HCO3-22 AnGap-16
___ 08:34AM BLOOD Glucose-108* UreaN-10 Creat-1.1 Na-139 
K-4.4 Cl-102 HCO3-28 AnGap-13
___ 08:50AM BLOOD Glucose-86 UreaN-16 Creat-1.0 Na-137 
K-4.0 Cl-98 HCO3-25 AnGap-18
___ 05:26AM BLOOD Calcium-9.1 Phos-3.4 Mg-2.2
___ 05:33AM BLOOD Calcium-9.3 Phos-4.2 Mg-2.3
___ 08:57AM BLOOD Albumin-3.4* Iron-36*
___ 05:14AM BLOOD Calcium-9.2 Phos-4.4 Mg-2.2
___ 06:00AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.2
___ 06:55AM BLOOD Calcium-8.9 Phos-3.5 Mg-2.2
___ 04:16AM BLOOD Calcium-8.5 Phos-3.4 Mg-2.2
___ 08:57AM BLOOD calTIBC-218* VitB12-390 Folate-10.4 
Ferritn-352 TRF-168*
___ 06:30PM BLOOD calTIBC-160* VitB12-347 Folate-10.4 
Ferritn-687* TRF-123*
___ 08:57AM BLOOD Triglyc-184*
___ 06:30PM BLOOD Triglyc-187*
___ 08:57AM BLOOD 25VitD-26*
___ 06:30PM BLOOD 25VitD-33
 
CT ABD & PELVIS WITH CONTRAST Study Date of ___ 1:59 ___ 
IMPRESSION: 
1. Oral contrast leaking around the colectomy anastomosis and in 
communication 
with a cutaneous fistula. 
2. IMV thrombosis is new since the ___ EXCH PERPHERAL W/O PORT Study Date of ___ 3:32 ___ 
IMPRESSION:  
Successful placement of a 46 cm right arm approach double lumen 
PowerPICC with tip at the superior cavoatrial junction.  The 
line is ready to use. 
  

 
Brief Hospital Course:
On admission, Mr ___ was noted to have erythema around the 
umbilical inicision. He had increasing pain and was quite 
uncomfortable. We started Unasyn intravenously. The incision was 
opened at the bedside. Gad was heard escaping from the midline 
wound and had a feculent odor. He was given intravenous pain 
medication. The patient was not febrile and did not have an 
elevated white blood cell count. He remained NPO and was 
hydrated intravenously. It was suspected that this was a 
developing enterocutaneous flistula. Over the remander of the 
day, the wound unfortunately started to put out stool. He had 
significant pain at the site of the fistula. A repeat CT scan of 
the abdomen was ordered because he continued to have significant 
pain at the site of the fistula and right lower quadrant which 
showed contrast leaking from the fistula and an IMV thrombus. No 
further intervention was needed at the site of the fistula as 
the pain improved. We started gabapentin for burning pain in the 
skin around the incision which was effective. Over all, he was 
doing well and the fistula output was controlled and the 
pouching system was containing the output. The overall plan will 
be to discharge him home, NPO with TPN for nutritional support 
with close follow-up. It is hoped that the fistula may 
spontaneously heal on its own, however, Dr. ___ the 
patient know it is likely that he will need surgery to take the 
fistula down. Now is not the optimal time to do this. We will 
follow him closely. She is allowed ice chips, gum, and hard 
candy for comfort. He will be discharged home on prophylactic 
Lovenox as recommended by Dr. ___. 
 
Medications on Admission:
MEDS: Albuterol 90 mcg PRN, Symbicort 160 mcg-4.5 mcg 2 puffs  
 daily, Mirtazapine 7.5 mg PO qHS, Omeprazole 20 mg PO qAM,  
 Ranitidine 300 mg PO qHS, Spiriva 1 puff daily, HandiHaler 18 
mcg  
 1 puff daily, Triamcinolone Cream 0.1% Topical PRN, ASA81 mg PO 
 
 daily, Vitamin D3 ___ U PO daily  

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild Duration: 7 
Days 
do not take more than 3000mg of Tylenol in 24 hours or drink 
alcohol while taking this medication 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*55 Tablet Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 14 Days 

take for 14 days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*14 Tablet Refills:*0 
3.  Enoxaparin Sodium 30 mg SC Q12H Duration: 30 Days 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 30 mg/0.3 mL 30 mg subcutaneous every twelve (12) 
hours Disp #*60 Syringe Refills:*0 
4.  Gabapentin 300 mg PO TID 
please take this medication until surgical follow-up 
appointments 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*42 Capsule Refills:*0 
5.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Severe 
do not drink alcohol or drive a car while taking this medication 

RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
four (4) hours Disp #*40 Tablet Refills:*0 
6.  LOPERamide 2 mg PO TID 
RX *loperamide 2 mg 1 tablet by mouth three times a day Disp 
#*100 Tablet Refills:*0 
7.  Mirtazapine 7.5 mg PO QHS  
8.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush  
9.  Albuterol Inhaler 1 PUFF IH Q4H:PRN wheezing  
10.  Aspirin 81 mg PO DAILY  
11.  Omeprazole 20 mg PO DAILY  
12.  Tiotropium Bromide 1 CAP IH DAILY  
13.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP PRN skin 
irritation  
14.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Enterocutaneous Fistula After 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the inpatient colorectal surgery service 
after discharge from the hospital after your colectomy from 
colon cancer. Unfortunately, you have developed a connection 
between the connection in your colon made during the surgery 
(the anastomosis) and your skin. This is called an 
enterocutaneous fistula. This is similar to having a colostomy. 
The treatment for this will be to not eat or drink at home, 
although, occasional ice chips are ok and keep track of the 
output. We will give you time to see if your body will heal this 
connection on its own. If this does not heal, a surgery to 
repair the fistula will be organized. You will see us in clinic 
to re evaluate. You will go home with TPN for nutritional 
support. Please continue to care for the fistula has you have 
been instructed by the Ostomy nursing staff. This is a very 
tough time, however, it is very important to give your body time 
to heal to have the most optimal outcome from the surgery you 
will need to repair the fistula if that is what is needed. 

There is a PICC line in your arm which we will use to give you 
the TPN. It is very important that the line is monitored for 
infection: redness at the site, increased pain at the site, 
drainage of grey/white/green drainage from around where the PICC 
line is incerted into your arm, or swelling of your arm. Please 
call if you have any of these symptoms. The visiting nurses ___ 
care for the picc line. You should call them for issues with the 
line such as if the dressing is dirty or is peeling off. No 
swimming or baths. Cover the line with plastic wrap for showers.

You also were found to have a small blood clot in one of the 
___ in your abdomen near the site where the pieceof your colon 
was removed. This is very common after this surgery, however, 
when a blood clot forms the body is prone to clot and we need to 
give medication to prevent that from happening. You will take 
lovenox for one month at home. It is important to work with the 
nurses to learn how to give yourselves these injections into the 
skin as instructed by the nursing staff. Please monitor yourself 
for signs of bleeding while taking this medication: weakness, 
dizziness, fast heart rate, bruising, feeling faint, bloody 
stool from the fistula. If you notice any of these things please 
call our office. 

You will also be prescribed pain medication. You were strted on 
a new medication called gabapentin and this has helped with the 
burning pain. You will be given enough of this to get you 
through to your follow-up appointment. Please do not drink 
alcohol while taking narcotic pain medications. Do not drive a 
car while taking narcotic pain medications. You may also take 
Tylenol for pain, do not take more than 3000mg of Tylenol in 24 
hours or drink alcohol while taking. 

Do not take Zantac (Ranitidine) with your other medications. 

Please call us with any questions. We look forward to seeing you 
in follow-up.  
 
Followup Instructions:
___